US07534797B2
3-Cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-amine
A Parr bomb containing 8-chloro-3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazine (759 mg, 2.3 mmol) in IPA (100 mL) was saturated with NH3(g) for 5 min at 0° C. then sealed and heated at 115° C. for 38 h. The reaction mixture was then concentrated under reduced pressure, partitioned between DCM (200 mL) and H2O (50 mL) and extracted with DCM (50 mL). Combined organic fractions were washed with brine, dried (Na2SO4) and concentrated under reduced pressure to provide the title compound as a white solid; 1H NMR (400 MHz, CDCl3) δ 7.13 (d, J=4.8 Hz, 1H), 7.01 (d, J=5.2 Hz, 1H), 5.63 (br, 2H), 3.73 (quintetd, J=0.8 Hz, 8.4 Hz, 1H), 2.60-2.38 (m, 4H), 2.20-1.90 (m, 2H); MS (ES+): m/z 315.9 (100) [MH+]; HPLC: tR=1.75 min (OpenLynx, polar—5 min).

reactant | 8-chloro-3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazine | 2.3 mmol, 759 mg | ClC=1C=2N(C=CN1)C(=NC2I)C2CCC2 | C10H9ClIN3
reactant | NH3 | N | H3N
solvent | IPA | 100 mL | CC(C)O | C3H8O
product | 3-Cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-amine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)I | C10H11IN4
